US07521141B2
(This example illustrates the detailed preparation of a solution containing a zirconium salt and methandiphosphonic acid in an NMP solution from which, after evaporation, it is possible to obtain a zirconium diphosphonate of composition Zr(O3P—CH2—PO3H2)2. Some data on the stability of the solution and on the proton conductivity of the compound collected after the evaporation of the solvent are also reported).

reactant | zirconium | [Zr] | Zr
reactant | methandiphosphonic acid | C(P(O)(=O)O)P(O)(=O)O | CH6O6P2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | zirconium diphosphonate | P(=O)([O-])OP(=O)[O-].[Zr+4].P(=O)([O-])OP(=O)[O-] | InChI=1S/2H4O5P2.Zr/c2*1-6(2)5-7(3)4;/h2*6-7H,(H,1,2)(H,3,4);/q;;+4/p-4
